US07795283B2
Intermediate 46: 2-Hydrazino-2-oxo-N-(3-phenoxypropyl)acetamide
Hydrazine monohydrate (6.3 mL) was added to a stirred suspension of methyl oxo[(3-phenoxypropyl)amino]acetate (3080 mg) in ethanol (50 mL). The reaction mixture was heated to 85° C. for 3 hours then allowed to cool. The precipitate was filtered off, washed with Et2O and dried under vacuum, to give the title compound (Intermediate 46, 2.269 g) as a solid; 1H NMR δ 9.95 (1H, s), 8.77 (1H, s), 7.28 (2H, m), 6.92 (3H, m), 4.50 (2H, s), 3.99 (2H, t), 3.30 (2H+H2O, m), 1.94 (2H, t); MS m/e MNa+ 260.

reactant | Hydrazine monohydrate | 6.3 mL | O.NN
reactant | methyl oxo[(3-phenoxypropyl)amino]acetate | 3080 mg | O=C(C(=O)OC)NCCCOC1=CC=CC=C1 | C12H15NO4
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-Hydrazino-2-oxo-N-(3-phenoxypropyl)acetamide | 2.269 g | N(N)C(C(=O)NCCCOC1=CC=CC=C1)=O | C11H15N3O3
